US03950393
2-Amino-3-bromo-N-cyclohexyl-5-methoxy-N-methyl-benzylamine was prepared from 2-amino-N-cyclohexyl-5-methoxy-N-methyl-benzylamine and bromine analogous to Example 9. Proof of structure by IR- and UV-spectra. IR-spectrum (methylenechloride):

reactant | 2-amino-N-cyclohexyl-5-methoxy-N-methyl-benzylamine | NC1=C(CN(C)C2CCCCC2)C=C(C=C1)OC | C15H24N2O
reactant | bromine | BrBr | Br2
solvent | methylenechloride | C(Cl)Cl | CH2Cl2
product | 2-Amino-3-bromo-N-cyclohexyl-5-methoxy-N-methyl-benzylamine | NC1=C(CN(C)C2CCCCC2)C=C(C=C1Br)OC | C15H23BrN2O
